US07919519B2
To a slurry of S-2-amino-4-benzylphenyl dimethylcarbamothioate (1.43 g, 4.99 mmol) in 15 mL ethylene glycol was added potassium hydroxide (0.840 g, 15.0 mmol) (solid, finely crushed). The reaction was heated to 60° C. under nitrogen. 10 mL 2-BuOH was added as cosolvent and the resulting solution was heated for 2 h. The reaction was fitted with a water-cooled reflux condensor and heated to 90° C. for 3 h. The reaction was cooled, and concentrated in vacuo. The material was partitioned between Et2O and water. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to give an oil, which was purified by silica gel chromatography, ISCO, 0-30% EtOAc/hexanes to give 2-(2-(2-amino-4-benzylphenyl)disulfanyl)-5-benzylbenzenamine as a brown oil. MS (ESI) m/z: Calculated: 428.1; Observed: 429.0 (M++1).

reactant | S-2-amino-4-benzylphenyl dimethylcarbamothioate | 4.99 mmol, 1.43 g | CN(C(SC1=C(C=C(C=C1)CC1=CC=CC=C1)N)=O)C | C16H18N2OS
reactant | potassium hydroxide | 15.0 mmol, 0.840 g | [OH-].[K+]
reactant | water | O | H2O
solvent | ethylene glycol | 15 mL | C(CO)O | C2H6O2
product | 2-(2-(2-amino-4-benzylphenyl)disulfanyl)-5-benzylbenzenamine | NC1=C(C=CC(=C1)CC1=CC=CC=C1)SSC1=C(C=C(C=C1)CC1=CC=CC=C1)N | C26H24N2S2
